US07795283B2
ii) Ethyl cis-4-(4-aminophenoxy)cyclohexanecarboxylate
Palladium (10 wt. %) on carbon (50 mg) was added in one portion to a solution of ethyl cis-4-(4-nitrophenoxy)cyclohexanecarboxylate (0.23 g, 0.78 mmol) in a mixture of EtOH (15 mL) and THF (10 mL) and the reaction mixture was stirred under a hydrogen atmosphere at room temperature for 16 h. The reaction mixture was filtered and then concentrated in vacuo to leave the title compound (0.20 g, 100%) as an oil; 1H NMR (CDCl3) δ 1.23-1.28 (3H, t), 1.55-1.63 (2H, m), 1.68-1.74 (2H, m), 1.93-2.03 (4H, m), 2.34-2.40 (1H, m), 4.10-4.17 (2H, q), 4.26-4.30 (1H, m), 6.60-6.63 (2H, d), 6.73-6.78 (2H, d) MS m/e MH+ 264.

reactant | ethyl cis-4-(4-nitrophenoxy)cyclohexanecarboxylate | 0.78 mmol, 0.23 g | [N+](=O)([O-])C1=CC=C(O[C@H]2CC[C@H](CC2)C(=O)OCC)C=C1 | C15H19NO5
solvent | EtOH | 15 mL | CCO | C2H6O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | Palladium | [Pd] | Pd
product | Ethyl cis-4-(4-aminophenoxy)cyclohexanecarboxylate | 0.20 g, 100% | NC1=CC=C(O[C@H]2CC[C@H](CC2)C(=O)OCC)C=C1 | C15H21NO3
